US06653334B1
Synthesis of tert-Butyl 2-[3-[2-(ethoxycarbonyl)ethenyl]phenoxy]-2-methylpropionate
60% Sodium hydride (6.1 g, 0.15 mol) was dissolved in tetrahydrofuran. Subsequently, triethylphosphonoacetate (30.2 mL, 0.15 mol) was added dropwise under ice-cooling. After 30 minutes, tert-butyl 2-(3-formylphenoxy)-2-methylpropionate (33.6 g, 0.13 mol) was added under ice-cooling, the mixture was stirred for one hour. Thereafter, the temperature of the mixture was raised to room temperature, and the mixture was stirred for five hours. An aqueous ammonium chloride solution was added thereto, and the resultant mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, followed by drying over sodium sulfate, concentration under reduced pressure, and purification by silica gel chromatography (n-hexane/ethyl acetate=9/1), whereby the target compound was obtained (39.1 g, 92%).

reactant | Sodium hydride | 0.15 mol, 6.1 g | [H-].[Na+]
reactant | tert-butyl 2-(3-formylphenoxy)-2-methylpropionate | 0.13 mol, 33.6 g | C(=O)C=1C=C(OC(C(=O)OC(C)(C)C)(C)C)C=CC1 | C15H20O4
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | tert-Butyl 2-[3-[2-(ethoxycarbonyl)ethenyl]phenoxy]-2-methylpropionate | C(C)OC(=O)C=CC=1C=C(OC(C(=O)OC(C)(C)C)(C)C)C=CC1 | C19H26O5
